US04171967
4,4'-Bipyridyl (156 g) was heated with ethyl chloroacetate (245 g) in dry dimethylformamide (400 ml) to 90°- 100° C. After 2 hours a further quantity of ethyl chloroacetate (123 g) was added and the mixture heated a further 2.5 hours at 120° C. The solution was cooled, diluted with chloroform (400 ml), stirred a short time at 0° C., and the solid collected, washed with chloroform and dried. The 1,1'-di-ethoxycarbonylmethyl-4,4'-bipyridylium dichloride so obtained (340 g) was dissolved in concentrated hydrochloric acid and heated under reflux for 3 hours. The mixture was cooled to 0° C., acetone (200 ml) slowly added, and the grey solid collected, washed with acetone, and dried, giving 1,1'-dicarboxymethyl-4,4'-bipyridylium dichloride.

reactant | 4,4'-Bipyridyl | 156 g | N1=CC=C(C=C1)C1=CC=NC=C1 | C10H8N2
reactant | ethyl chloroacetate | 245 g | ClCC(=O)OCC | C4H7ClO2
reactant | ethyl chloroacetate | 123 g | ClCC(=O)OCC | C4H7ClO2
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,1'-di-ethoxycarbonylmethyl-4,4'-bipyridylium dichloride | [Cl-].[Cl-].C(C)OC(=O)C[N+]1=CC=C(C=C1)C1=CC=[N+](C=C1)CC(=O)OCC | InChI=1S/C18H22N2O4.2ClH/c1-3-23-17(21)13-19-9-5-15(6-10-19)16-7-11-20(12-8-16)14-18(22)24-4-2;;/h5-12H,3-4,13-14H2,1-2H3;2*1H/q+2;;/p-2
